Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Adhesive / Tegaderm / morphine / Dilaudid / 
Tagrisso
 
Attending: ___.
 
Chief Complaint:
worsening skeletal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a pleasant ___ years old Female who presents to
___ ED for the further evaluation of worsening mid back pain 
as
a referral from ___ clinic. Pain has been refractory to 
home
tylenol, tramadol, and oxycodone 10mg. Denies any bladder or
bowel incontinence, or issues with ambulation. No recent trauma.
No recent fevers, chest pain, shortness of breath, nausea,
vomiting, diarrhea, abdominal pain, recent prolonged traveling,
or known exposure to sick contacts. Daughter at bedside at time
of exam. She was sent in for appropriate pain control with
eventual plan on undergoin an iliac biopsy to establish 
treatment
plan going forward.

In the ED, initial vitals: 98.6 86 120/77 16 98% RA

REVIEW OF SYSTEMS:
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI.
 
Past Medical History:
- HTN
- Hypothyroidism
- PE on lovenox
- Osteoporosis
- EGFR positive metastatic NSCLC (malignant L pleural effusion
s/p Pleurx and talc pleurodesis in ___ osseous mets)

Current Treatment:
- Erlotinib: started ___ - stopped ___ 
- Osimertinib: started ___ 

Oncologic History:
- Presented with back pain ___, referred for physical therapy
- MRI of the back ___ showed left lower lung mass
- ___ Chest CT: mass in superior segment of the left lower
lobe with associated lung collapse
-  ___ PET-CT: FDG-positive mass in the left lower lobe
without any uptake in the mediastinum or elsewhere.  
- ___ mediastinoscopy with biopsy of mediastinal lymph nodes
at level 4R, 4L and 2R, all positive for adenocarcinoma. Biopsy
from the left lower lobe lesions confirmed adenocarcinoma
- EGFR positive
- ___ bone biopsy negative for malignancy
- ___ CXR showed pleural effusion, no thoracentesis done
- ___: concomitant chemoradiation with cisplatin/etoposide
for 2 cycles
- ___: Cisplatin/Alimta for 2 cycles 
- ___: PET scans with decreased FDG-avidity; no
evidence of tumor recurrence
- ___: PET with new left pleural effusion; thoracentesis
shows that cytology is positive for adenocarcinoma.
- ___: took Tarceva 150 mg PO daily; developed
dehydration, extreme fatigue, nausea, diarrhea resulting in a
hospitalization from ___ stopped Tarceva
- ___: talc pleurodesis and pleurex catheter placement for
management of malignant pleural effusion, catheter was pulled
prior to discharge
- ___: resumed Tarceva at a dose of 100 mg daily, developed
intolerable side effects of fatigue, nausea, sweats, and
discontinued it on ___.
- ___: presented with pericarditis and a small pericardial
effusion developed which waxed and waned but was never tapped.
- ___: restarted Tarceva 25 mg daily
- ___: increased Tarceva to 50 mg daily
- ___: CT with overall stable disease, slight enlargement of
the left hilar mass.
- ___: CT with decrease in size of left hilar mass
- ___: CT with stable disease
- ___: CT with stable disease
- ___: CT with stable disease
- ___: CT with stable disease
- ___ CT chest essentially stable disease
- ___: Imaging with essentially stable disease
- ___ - ___: Admitted for submassive PE; placed on
Enoxaparin
- ___: CT scan showed increased in size of tumor
- ___: CT scan showed increased osteoblastic lesions of the
spine and right pelvis
- ___: PET scan shows increased FDG avid disease in the 
chest
and left hilum as well as uptake in multiple bony sites in the T
and L spine and the pelvic
-___: Repeat biopsy of lung lesion, sent for T790M mutation
testing
-___: Completed ___ fractions of radiation to L2-R hip
-___: T790M mutation reviewed in clinic - result negative.
Increasing erlotinib to 75mg daily
-___: CT TORSO shows improvement in thoracic disease burden
and stable bony disease
-___: CT TORSO shows stable disease
-___: Interval increase in size of a left lower lobe soft
tissue mass abutting the aorta, now measuring up to 3.9 cm and
previously measuring up to 2.7 cm.
-___  CT shows decrease in size of the previously growing
soft tissue mass next to the thoracic aorta. She has no clear
evidence of progression elsewhere, but 2 tiny nonspecific right
lung nodules. Continued erlotinib at 75mg QD
-___ CT torso with stable disease, progressive
cough/SOB/hemoptysis led to admission from ___ - ___ ___/P negative for PE, ___ embolization failed d/t dissection or
spasm. Restarted on daily therapeutic lovenox prior to discharge
w/o hemoptysis. Started on robitussin DM QD and codeine QHS.
Hypotensive response to dilaudid. IP bx'd LUL mass for 
mechanisms
of resistance. 
- ___ - Seen in clinic with progressive fatigue, back 
pain.
Given concern for progression we send liquid biopsy, which
revealed a 0.73% allele frequency of her initial EGFR mutation,
negative for T790M but not a rule out given allele frequency 
<1%.
- ___ - MRI spine with new likely metastatic T4 lesion,
otherwise stable mets; no compression/stenosis 
- ___ - started osimertinib 80mg QD, initially very
fatigued/dehydrated so spaced to QOD 

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
Vitals: ___ Temp: 98.6 PO BP: 120/77 HR: 86 RR: 16 O2
sat: 98% O2 delivery: RA
General appearance: Generally well appearing, in no acute
distress, daughter at bedside 
Head, eyes, ears, nose, and throat: Pupils round and equally
reactive to light. Oropharynx clear with moist mucous membranes.
Lymph: No palpable cervical or supraclavicular lymphadenopathy.
Cardiovascular: Regular rate and rhythm, S1, S2, no audible
murmurs.
Respiratory: CTAB
Abdomen: Soft, nontender, nondistended. No palpable
hepatosplenomegaly.
MSK: Lumbar spine tender to palpation
Extremities: Warm, without edema.
Neurologic: Grossly normal strength, coordination and gait.
Skin: No rashes. 
ACCESS: PIV

DISCHARGE PHYSICAL EXAM:
========================
Vitals: 24 HR Data (last updated ___ @ 426)
    Temp: 98.0 (Tm 98.9), BP: 105/54 (105-108/54-68), HR: 76
(74-78), RR: 18, O2 sat: 96% (92-96), O2 delivery: RA    
General: well appearing, in no acute distress
Cardiovascular: RRR, S1, S2, no audible murmurs.
Respiratory: CTAB
Abdomen: Soft, nontender, nondistended. 
MSK: Lumbar spine tender to palpation around T10
Extremities: Warm, without edema.
Neurologic: Grossly normal strength, coordination and gait.
Skin: No rashes. 
ACCESS: PIV
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:55PM   GLUCOSE-102* UREA N-17 CREAT-0.8 SODIUM-135 
POTASSIUM-4.5 CHLORIDE-99 TOTAL CO2-29 ANION GAP-7*
___ 01:55PM   ALT(SGPT)-27 AST(SGOT)-33 ALK PHOS-114* TOT 
BILI-0.4
___ 01:55PM   ALBUMIN-3.9
___ 01:55PM   WBC-5.6 RBC-3.60* HGB-10.2* HCT-31.5* MCV-88 
MCH-28.3 MCHC-32.4 RDW-14.0 RDWSD-44.9
___ 01:55PM   NEUTS-66.9 ___ MONOS-9.5 EOS-1.8 
BASOS-0.5 IM ___ AbsNeut-3.72 AbsLymp-1.16* AbsMono-0.53 
AbsEos-0.10 AbsBaso-0.03
___ 01:55PM   ___ PTT-26.8 ___

DISCHARGE LABS
===============
___ 06:00AM BLOOD WBC-4.9 RBC-3.24* Hgb-9.2* Hct-28.5* 
MCV-88 MCH-28.4 MCHC-32.3 RDW-13.3 RDWSD-42.7 Plt ___
___ 05:30AM BLOOD ___
___ 06:00AM BLOOD Glucose-89 UreaN-11 Creat-0.6 Na-140 
K-4.5 Cl-99 HCO3-28 AnGap-13
___ 06:00AM BLOOD Calcium-9.1 Phos-4.2 Mg-1.9
___ 06:00AM BLOOD Cortsol-6.9

IMAGING
=======
___ BIPAT HIPS X-RAY:
Sclerotic bone lesion consistent with metastatic disease at the 
right iliac wing similar in overall pattern when compared with 
prior CT.  No fracture. 

___ MRI THORACIC AND LUMBAR SPINE:
1. Significant increase in metastatic osseous involvement of the 
spine, 
including increasing involvement of the T4 and T12 vertebral 
bodies as well as new lesions at C5 through T3, T5, and L5. 
2. New epidural extension of tumor at the T12 level resulting in 
mild neural foraminal stenosis on the left at T11-T12 and T12-L1 
and on the right at T12-L1 without significant spinal canal 
stenosis. 
3. Right iliac bone and sacrum lesions appear stable. 
4. Previously noted large left superior hemithorax loculated 
fluid collection is partially imaged on the current study. 
PREVALENCE: Prevalence of lumbar degenerative disk disease in 
subjects 
without low back pain: 
Overall evidence of disk degeneration 91% (decreased T2 signal, 
height loss, bulge), T2 signal loss 83%, Disk height loss 58%, 
Disk protrusion 32%, Annular fissure 38% ___, et al. Spine 
___ 26(10):___ 
Lumbar spinal stenosis prevalence- present in approximately 20% 
of 
asymptomatic adults over ___ years old. ___, et al, Spine 
Journal ___ 9 (7):545-550 

___ TTE
Mild symmetric left ventricular hypertrophy with normal cavity 
size and
moderate to severe global hypokinesis with visual dyssynchrony. 
Normal right ventricular size and systolic function. Moderate 
mitral regurgitation. Mild pulmonary artery systolic 
hypertension.
Compared with the prior TTE (images reviewed) of ___ , 
the left ventricular systolic function is similar. The severity 
of mitral regurgitation is now slightly increased.

PROCEDURES
==========
___ BONE, BIOPSY FOR TUMOR
Multifocal areas of sclerosis within the right iliac bone 
corresponding to the FDG avid regions seen on recent PET scan.  
Small volume of pelvic free fluid.  No lymphadenopathy. 
  
IMPRESSION:  
Technically successful right iliac bone CT-guided biopsy. 
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
#NSCLC
[ ] F/u iliac bone biopsy results 
[ ] Erlotinib restarted day after discharge at 100mg.

#Pain control, bony mets
[ ] MS ___ started inpatient for bony pain. 
[ ] Prescribed bowel reg at discharge.

#Heart failure w reduced EF
[ ] Entresto reduced dose
[ ] Carvedilol discontinued due to hypotension, started on 
metoprolol succinate at 12.5 mg daily.

#HCP/Contact: ___ (daughter) - ___
#Code: Full, presumed

SUMMARY:
========
___ PMH of metastatic NSCLC who presents for eval of worsening 
mid back pain as a referral from ___ clinic. She received 5 
fractions of radiation to T10-L1 for her bony pain. She 
underwent a biopsy of the right iliac bone to determine if there 
is a new mechanism of treatment resistance. She was discharged 
on long acting MS ___ with oncology follow up.

ACTIVE/ACUTE ISSUES:
====================
# Back pain, hip pain:
Patient had presented to clinic with worsening mid-pack pain and 
was admitted for pain control. She was febrile and HD stable, no 
leukocytosis to suggest infection. Her pain is likely ___ to 
known metastatic osseous sites. Bilateral hip x-rays showed 
sclerotic bone lesions consistent with metastatic disease at the 
right iliac. MRI showed significant increase in metastatic 
involvement of spine, including T4 and T12 vertebral bodies, new 
lesions at C5 through T3, T5, and L5. R iliac and sacrum lesions 
appear stable. She was started on MS ___ 15mg q12h for 
long-acting pain relief. She also received Tylenol ___ 
TID and oxycodone ___ q6h:PRN. Radiation Oncology met with 
the patient for treatment planning and performed palliative 
radiation during admission. She received her R iliac biopsy on 
___. On discharge, the patient's pain is well-controlled 
and she will continue MS ___. She will follow up with her 
primary oncologist to review biopsy results.

# Hypotension:
# HFrEF:
HFrEF developed in ___ with sx including SOB, DOE and 
worsened to EF 24% on ___ TTE despite optimal medical 
management (Entresto, carvedilol). Stress, mibi without e/o 
reversible ischemia. cMRI with no fibrosis/inflammation 
suggesting osimertinib as the only likely cause. As above, this 
is an uncommon complication of osimertinib therapy though 
appears more common on this than other TKIs. During admission, 
she had 2 episodes of asymptomatic hypotension (BP ___, 
where she denied any chest pain/palpitations, 
lightheadedness/presyncope, which improved with fluids. Her 
Entresto and carvedilol were discontinued and BPs remained 
stable afterwards. There was a concern for worsening HF; repeat 
TTE showed EF of ___ with slight increase in mitral 
regurgitation compared to TTE of ___. Heart 
Failure/Cardiology was consulted and recommended restarting 
Entresto at 24mg/26mg (lower dose) and metroprolol succinate 
12.5mg daily. Upon discharge, the patient's BP is 121/65, she is 
asymptomatic, and will begin taking these new medications. 

CHRONIC/STABLE ISSUES:
======================
# Metastatic NSCLC:
Patient was diagnosed with EGFR-mutant SIII NSCLC in ___. 
Completed two cyclescisplatin/etoposide concurrent radiation 
followed by two cyclesof cisplatin/pemetrexed. She recurred in 
the pleural fluid in ___ and was initiated on erlotinib at 
that time. She remained on erlotinib from ___ - ___, with 
eventual dose reduction to 75mg QD for tolerance of AEs; later 
transitioned to osimertinib howver discontinued ___ progressive 
cardiomyopathy. Per outpatient oncology team, erlotibin to be 
restarted at discharge. 

# Pulmonary embolism:
- Continued home lovenox ___ daily

# Hypothyroidism
- Continued home synthroid

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sacubitril-Valsartan (97mg-103mg) 1 TAB PO BID 
2. Meclizine 12.5 mg PO Q8H:PRN dizziness 
3. CARVedilol 6.25 mg PO BID 
4. Enoxaparin Sodium 100 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
5. Atorvastatin 20 mg PO QPM 
6. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

7. Omeprazole 20 mg PO DAILY 
8. PARoxetine 10 mg PO DAILY 
9. Levothyroxine Sodium 137 mcg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
2.  Morphine SR (MS ___ 15 mg PO Q12H 
RX *morphine 15 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*60 Tablet Refills:*0 
3.  Sacubitril-Valsartan (24mg-26mg) 1 TAB PO BID 
RX *sacubitril-valsartan [Entresto] 24 mg-26 mg 1 tablet(s) by 
mouth twice a day Disp #*60 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID 
RX *sennosides 8.6 mg 8.6 mg by mouth twice a day Disp #*60 
Tablet Refills:*0 
5.  Atorvastatin 20 mg PO QPM  
6.  Enoxaparin Sodium 100 mg SC DAILY  
7.  Levothyroxine Sodium 137 mcg PO DAILY  
8.  Meclizine 12.5 mg PO Q8H:PRN dizziness  
9.  Omeprazole 20 mg PO DAILY  
10.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*30 Tablet Refills:*0 
11.  PARoxetine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses: 
Pain secondary to bony metastases
EGFR-mutant stage III non-small cell lung cancer

Secondary diagnoses: 
Heart failure with reduced ejection fraction
Hypertension
Hypothyroidism
Pulmonary embolism (on lovenox)
Osteoporosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You came to the hospital because you were experiencing severe 
back pain.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- Your pain was managed with medications.
- You received an MRI of your spine.
- You were evaluated by the Radiation Oncology team and you 
received radiation to your spine to help with your pain.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please continue to take all of your medications as directed.
- Please follow up with all the appointments scheduled with your 
doctor.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team 
 
Followup Instructions:
___